US04870219
45 g of [1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-ethyl]-triphenylphosphonium bromide are suspended in 200 ml of 1,2-butylene oxide. After the addition of 8 g of 4-fluorobenzaldehyde the mixture is boiled at reflux for 16 hours. After cooling the clear, yellowish solution is poured into 1 l of methanol/water (6:4) and extracted repeatedly with hexane. The organic phase is washed three times with water and, after drying over sodium sulphate, evaporated. The crystalline residue can be recrystallized from hexane and gives 11.2 g of (E)-6-(p-fluoro-α-methylstyryl)-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene in colourless crystals, melting point 99°-101°.

reactant | [1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-ethyl]-triphenylphosphonium bromide | 45 g | [Br-].CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | 4-fluorobenzaldehyde | 8 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | methanol water | 1 l | CO.O
solvent | 1,2-butylene oxide | 200 ml | C1C(CC)O1 | C4H8O
product | (E)-6-(p-fluoro-α-methylstyryl)-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene | 11.2 g | FC1=CC=C(/C=C(\C)/C=2C=C3C(CCC(C3=CC2)(C)C)(C)C)C=C1 | C23H27F
